US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-isopropylbenzaldehyde (1.5 g) and 4-isopropylaniline (1.4 g) as starting materials, (4-isopropylphenyl)[(4-isopropylphenyl)methyl]amine (2.6 g) was obtained.

reactant | 4-isopropylbenzaldehyde | 1.5 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | 4-isopropylaniline | 1.4 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | (4-isopropylphenyl)[(4-isopropylphenyl)methyl]amine | 2.6 g | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)C(C)C | C19H25N
